US05175157
2-[(N-(3-(3,4-Dimethyl-N-ethyl-amino-phenyl)-propyl)-piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride
A mixture of 1.3 g (0.0034 mol) of 2-[(N-(3-chloropropyl)-piperidine-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline, 15 ml of dimethylsulphoxide, 1.4 g (0.1 mol) of potassium carbonate and 1 g (0.0066 mol) of 3,4-dimethyl-N-ethylaniline is heated to 120° C. for 6 hours. The reaction mixture is poured onto ice water, extracted with ethyl acetate, the organic phase is washed with water, dried over sodium sulphate and evaporated down in vacuo. The residue obtained is purified over silica gel (0.036-0.2 mm) with 5% ethanol in methylene chloride.

reactant | 2-[(N-(3-chloropropyl)-piperidine-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | 0.0034 mol, 1.3 g | ClCCCN1CC(CCC1)CN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C20H29ClN2O3
reactant | potassium carbonate | 0.1 mol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dimethyl-N-ethylaniline | 0.0066 mol, 1 g | CC=1C=C(NCC)C=CC1C | C10H15N
solvent | dimethylsulphoxide | 15 ml | CS(=O)C | C2H6OS
product | 2-[(N-(3-(3,4-Dimethyl-N-ethyl-amino-phenyl)-propyl)-piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride | Cl.Cl.CC=1C(=C(C=CC1C)CCCN1CC(CCC1)CN1C(C2=CC(=C(C=C2CC1)OC)OC)=O)NCC | InChI=1S/C30H43N3O3.2ClH/c1-6-31-29-22(3)21(2)11-12-24(29)10-8-15-32-14-7-9-23(19-32)20-33-16-13-25-17-27(35-4)28(36-5)18-26(25)30(33)34;;/h11-12,17-18,23,31H,6-10,13-16,19-20H2,1-5H3;2*1H
